US08633183B2
A-20) 5-Trimethylsilanylethynyl-pyridin-3-ol
The title compound is synthesized according to general procedure GP2 starting from 2.0 g (11.6 mmol) 5-bromo-3-hydroxy-pyridine and 2.3 mL (16.2 mmol) 1-trimethylsilyl-ethyne to using 66 mg (0.3 mmol) CuI, 303 mg (1.2 mmol) triphenylphosphine, 243 mg (0.3 mmol) PdCl2(PPh3)2 and 19 mL (139 mmol) triethylamine in 20 mL dry THF. For the work-up the reaction mixture is diluted with ethyl acetate and small amounts of cyclohexane, the organic phase is extracted with water and brine. The product is purified by chromatography on silica gel using a DCM/MeOH gradient. Yield: 2.0 g (91%).

reactant | 5-bromo-3-hydroxy-pyridine | 11.6 mmol, 2.0 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | 1-trimethylsilyl-ethyne | 16.2 mmol, 2.3 mL | C[Si](C#C)(C)C | C5H10Si
reactant | triphenylphosphine | 1.2 mmol, 303 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 139 mmol, 19 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
catalyst | CuI | 0.3 mmol, 66 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.3 mmol, 243 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Trimethylsilanylethynyl-pyridin-3-ol | C[Si](C)(C)C#CC=1C=C(C=NC1)O | C10H13NOSi
